US07495103B2
A suspension of 3-tert-butyl-6-nitro-1H-indole (3.0 g, 13.7 mmol) and Raney Ni (0.5 g) in ethanol was stirred at room temperature under H2 (1 atm) for 3 h. The catalyst was filtered off and the filtrate was concentrated to dryness. The residue was purified by column chromatography on silica gel (Pet.Ether./EtOAc 4:1) to give 3-tert-butyl-1H-indol-6-ylamine (B-11) (2.0 g, 77.3%) as a gray solid. 1H NMR (CDCl3): δ 7.58 (m, 2H), 6.73 (d, J=1.2 Hz, 1H), 6.66 (s, 1H), 6.57(dd, J=0.8, 8.6 Hz, 1H), 3.60 (br s, 2H), 1.42 (s, 9H).

reactant | 3-tert-butyl-6-nitro-1H-indole | 13.7 mmol, 3.0 g | C(C)(C)(C)C1=CNC2=CC(=CC=C12)[N+](=O)[O-] | C12H14N2O2
solvent | ethanol | C(C)O | C2H6O
catalyst | Ni | 0.5 g | [Ni] | Ni
product | 3-tert-butyl-1H-indol-6-ylamine | 2.0 g, 77.3% | C(C)(C)(C)C1=CNC2=CC(=CC=C12)N | C12H16N2
